US05114944
N,N-Dimethyl-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetamide
A stirred slurry of 3.2 g (0.010 mole) of 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine (prepared from 2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid and 1,1'-carbonyldiimidazole) in 20 ml of dry tetrahydrofuran was treated with 3 ml of dimethylamine in 10 ml of dry tetrahydrofuran. After stirring for 16 hours, the reaction mixture was diluted with 100 ml of water and the precipitated solid collected by filtration (1.4 g). The crude product was purified by a liquid-solid extraction in a soxhlet using isopropyl ether as the extracting solvent. Filtration yielded 1.6 g (33.6%) of golden yellow crystals, mp 163.5°-165° C.

reactant | 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine | 0.010 mole, 3.2 g | N1(C=NC=C1)C(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O | C18H15N5O
reactant | dimethylamine | 3 ml | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N,N-Dimethyl-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetamide | 1.6 g, 33.6% | CN(C(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O)C | C17H18N4O
